US07858717B2
6-tert-Butyl-4-(4-tert-butylphenyl)-2-methyl-1-indanone
Pd(OAc)2 (0.3 g, 3 mol %) and PPh3 (0.7 g, 3 mol %) were added to a well stirred mixture 4-bromo-6-tert-butyl-2-methyl-1-indanone (12.65 g, 45 mmol), tert-butylphenylboronic acid (11.2 g, 63 mmol) and Na2CO3 (13.4 g, 126 mmol) in DME (170 ml) —H2O (56 ml). The resulting mixture was refluxed with stirring for 6 h, cooled, and poured into water. CHCl3 (300 ml) was added, the organic layer was separated, washed with water, dried over MgSO4, evaporated and purified by gradient column chromatography (hexane/chloroform from 4:1 to 1:1). The yield was 10.84 g (72%).

reactant | PPh3 | 0.7 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 4-bromo-6-tert-butyl-2-methyl-1-indanone | 45 mmol, 12.65 g | BrC1=C2CC(C(C2=CC(=C1)C(C)(C)C)=O)C | C14H17BrO
reactant | tert-butylphenylboronic acid | 63 mmol, 11.2 g | C(C)(C)(C)OB(O)C1=CC=CC=C1 | C10H15BO2
reactant | Na2CO3 | 126 mmol, 13.4 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 170 ml | COCCOC | C4H10O2
catalyst | Pd(OAc)2 | 0.3 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | CHCl3 | 300 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
solvent | H2O | 56 ml | O | H2O
product | 6-tert-Butyl-4-(4-tert-butylphenyl)-2-methyl-1-indanone | C(C)(C)(C)C1=CC(=C2CC(C(C2=C1)=O)C)C1=CC=C(C=C1)C(C)(C)C | C24H30O
